US08378104B2
Step A: 3-(furan-3-yl)prop-2-enoyl azide
In an oven-dried three-necked flask were placed a mixture of 3-(furan-3-yl)prop-2-enoic acid (20.0 g, 145 mmol) and dry triethylamine (17.2 g, 171 mmol) in acetone (200 mL, dried over anhydrous MgSO4). The mixture was cooled to 0 to 2° C. To the cold mixture, isobutyl chloroformate (25.2 mL, 193 mmol) was added at 0° C. The mixture was stirred at 0 to 2° C. for 30 min, then a solution of sodium azide (14.0 g, 215 mmol) in water (60 mL) was added slowly at 0° C. The reaction mixture was stirred for 1 h at the same temperature. It was quenched with an ice-water (500 mL) and the title azide was extracted with toluene (4×100 mL), dried over an anhydrous sodium sulfate and filtered. The filtrate containing the crude title compound was used as such for the next reaction.

reactant | 3-(furan-3-yl)prop-2-enoic acid | 145 mmol, 20.0 g | O1C=C(C=C1)C=CC(=O)O | C7H6O3
reactant | triethylamine | 171 mmol, 17.2 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 193 mmol, 25.2 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium azide | 215 mmol, 14.0 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 200 mL | CC(=O)C | C3H6O
solvent | water | 60 mL | O | H2O
product | 3-(furan-3-yl)prop-2-enoyl azide | O1C=C(C=C1)C=CC(=O)N=[N+]=[N-] | C7H5N3O2
